US06828460B2
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]-N-hydroxycyclohexanecarboxamide
Triethylamine (11 μl) and isobutylchloroformate (10 μl) were added to a stirred solution of (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanecarboxylic acid in anhydrous tetrahydrofuran (2 ml) at 0° C. under argon. After 30 min, aqueous hydroxylamine solution (0.5 ml, 50 wt %) was added. The reaction mixture was partitioned between water (20 ml) and ethyl acetate (50 ml). The aqueous layer was extracted with ethyl acetate (2×20 ml) and the combined organic extracts were dried over magnesium sulfate and evaporated in vacuo to give the title compound as a solid (26 mg, quant.) and a mixture of diastereoisomers; m/z (ES+) 340 (M+H)+.

reactant | Triethylamine | 11 μl | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 10 μl | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanecarboxylic acid | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)C(=O)O | C17H24O6
reactant | hydroxylamine | 0.5 ml | NO | H3NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]-N-hydroxycyclohexanecarboxamide | 26 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)C(=O)NO | C17H25NO6
